US07250418B2
Preparation of 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-pyridin-3-ylpyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine but substituting 3-bromo pyridine provided the title compound as an amporphous solid: 1H NMR (400 MHz, CDCl3) δ) 7.97, 7.51, 7.46, 7.33–7.28, 7.11, 5.31, 4.92, 4.31, 3.92, 3.85, 3.78–3.33, 2.73, 2.49, 1.35–1.29, 1.16; HRMS (ESI) calcd for C25H29N5OCl2+H1 486.1827. found 486.1834.

reactant | 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C=1SC=CN1)CC | C23H27Cl2N5OS
reactant | 3-bromo pyridine | BrC=1C=NC=CC1 | C5H4BrN
product | 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-pyridin-3-ylpyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C=1C=NC=CC1)CC | C25H29Cl2N5O
